US07015218B1
N-{4-[4-(2-Dimethylaminoethyl)piperazin-1-yl]-3-cyanophenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide ¾ hydrate
N-[3-Cyano-4-(piperazin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide (2 g), 2-dimethylaminoethyl chloride hydrochloride (0.85 g) and potassium carbonate (0.8 g) were added to dimethylformamide (20 ml) and the mixture was stirred at 60° C. for 3 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and the solvent was evaporated under reduced pressure. Ethanol was added to the residue to allow crystallization. The crystals were recrystallized from hydrous ethanol to give the title compound (0.3 g), melting point: 185° C.

reactant | N-[3-Cyano-4-(piperazin-1-yl)phenyl]-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 2 g | C(#N)C=1C=C(C=CC1N1CCNCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C22H21FN6O
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.85 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{4-[4-(2-Dimethylaminoethyl)piperazin-1-yl]-3-cyanophenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 0.3 g | CN(CCN1CCN(CC1)C1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F)C#N)C | C26H30FN7O
